US09388189B2
a) 4,6-Dichloro-N-(3-fluoro-4-methoxyphenyl)pyrimidine-5-carboxamide
4,6-Dichloropyrimidine-5-carbonyl chloride (890 mg, 4.21 mmol, prepared according to E. V. Tarasov et al. Synlett 2000, 5, 625-626) was dissolved in dichloromethane (3 ml) and TEA (587 μl, 4.21 mmol) was added. To this solution, 3-fluoro-4-methoxyaniline (594 mg, 4.21 mmol) dissolved in 3 ml dichloromethane was added dropwise and the mixture was stirred for 30 min. The reaction mixture was then diluted with dichloromethane, washed with 4% sodium bicarbonate solution, dried over magnesium sulphate, filtered and evaporated. The crude was purified using SP1® Purification System (0%-40%, hexane-ethyl acetate) to give 720 mg (56% yield) to the title compound as an oil.

reactant | 4,6-Dichloropyrimidine-5-carbonyl chloride | 4.21 mmol, 890 mg | ClC1=NC=NC(=C1C(=O)Cl)Cl | C5HCl3N2O
reactant | 3-fluoro-4-methoxyaniline | 4.21 mmol, 594 mg | FC=1C=C(N)C=CC1OC | C7H8FNO
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 4,6-Dichloro-N-(3-fluoro-4-methoxyphenyl)pyrimidine-5-carboxamide | 56% yield | ClC1=NC=NC(=C1C(=O)NC1=CC(=C(C=C1)OC)F)Cl | C12H8Cl2FN3O2
